US05162505
b) Preparation of succinimidyl (2-benzoylthioacetyl)glycylglycylglycinate
To a solution of 1.0 g of (2-benzoylthioacetyl)glycylglycylglycine (2.72 mmol) in 10 mL of dimethylforamide was added 0.56 g of dicyclohexylcarbodiimide (2.72 mmol) and 0.31 g of N-hydroxysuccinimide (2.72 mmol). The solution was stirred at room temperature for 24 hours. The resultant white solid was filtered off. The solvent was removed from the filtrate by rotary evaporator (vacuum pump, 35.) to give the product as a yellow semisolid. This solid was dried under vacuum overnight. The product was then recrystallized from 100 mL of hot 2-propanol to give 0.27 g of a white powder after filtration and drying under vacuum (21%). NMR (DMSO-d6)δ 2.81 (s, 4H), 3.79 (m, integral obscured by water), 3.89 (s, integral obscured by water), 4.28 (d, 2H), 7.58 (d, 2H), 7.71 (t, 1H), 7.93 (d,2H), 8.29 (br t, 1H), 8.54 (m, 2H).

reactant | (2-benzoylthioacetyl)glycylglycylglycine | 2.72 mmol, 1.0 g | C(C1=CC=CC=C1)(=O)CC(=S)NCC(=O)NCC(=O)NCC(=O)O | C15H17N3O5S
reactant | dicyclohexylcarbodiimide | 2.72 mmol, 0.56 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-hydroxysuccinimide | 2.72 mmol, 0.31 g | ON1C(CCC1=O)=O | C4H5NO3
solvent | dimethylforamide | 10 mL | CN(C=O)C | C3H7NO
product | succinimidyl (2-benzoylthioacetyl)glycylglycylglycinate | C(C1=CC=CC=C1)(=O)CC(=S)NCC(=O)NCC(=O)NCC(=O)ON1C(CCC1=O)=O | C19H20N4O7S
